US05585394
A) Methyl 4-[3-cyclopentyl-5-ethoxy-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl]sulfonyl-3-methoxybenzoate
This compound is prepared by the procedure described in EXAMPLE 107 step A) starting from 1 g of 3- cyclopentyl-5-ethoxy-1,3-dihydro-2H-benzimidazol-2-one and 1.2 g of 4-methoxycarbonyl-2-methoxybenzenesulfonyl chloride. It is chromatographed on silica using a DCM/AcOEt mixture (95/5; v/v) as the eluent to give 1.4 g of the expected product. M.p.=151° C.

reactant | 3- cyclopentyl-5-ethoxy-1,3-dihydro-2H-benzimidazol-2-one | 1 g | C1(CCCC1)N1C(NC2=C1C=C(C=C2)OCC)=O | C14H18N2O2
reactant | 4-methoxycarbonyl-2-methoxybenzenesulfonyl chloride | 1.2 g | COC(=O)C1=CC(=C(C=C1)S(=O)(=O)Cl)OC | C9H9ClO5S
product | Methyl 4-[3-cyclopentyl-5-ethoxy-2,3-dihydro-2-oxo-1H-benzimidazol-1-yl]sulfonyl-3-methoxybenzoate | 1.4 g | C1(CCCC1)N1C(N(C2=C1C=C(C=C2)OCC)S(=O)(=O)C2=C(C=C(C(=O)OC)C=C2)OC)=O | C23H26N2O7S
